US07977331B1
To a solution of methyl 12-cyclohexyl-4-{N-[2-(piperidin-1-yl)ethyl]-N-propylamino}-6,7-dihydro-5-oxa-7a-azadibenzo[a,e]azulene-9-carboxylate (3.25 g, 5.98 mmol) in tetrahydrofuran (16 ml) and methanol (8 ml) was added 4N aqueous sodium hydroxide solution (4.5 ml), and the mixture was stirred at 65° C. for 2 hr. The reaction mixture was adjusted to pH 6.5 with 2N hydrochloric acid and extracted with chloroform. The organic layer was washed with saturated brine and dried over anhydrous sodium sulfate. After filtration, the solvent was evaporated under reduced pressure. 4N HCl-ethyl acetate solution (10 ml) was added to a solution of the residue in chloroform, and the solvent was evaporated under reduced pressure. A mixed solvent (hexane:ethyl acetate=4:1) was added to the residue and the precipitated solid was collected by filtration to give 12-cyclohexyl-4-{N-[2-(piperidin-1-yl)ethyl]-N-propylamino}-6,7-dihydro-5-oxa-7a-azadibenzo[a,e]azulene-9-carboxylic acid dihydrochloride (3.41 g, yield 95%).

reactant | methyl 12-cyclohexyl-4-{N-[2-(piperidin-1-yl)ethyl]-N-propylamino}-6,7-dihydro-5-oxa-7a-azadibenzo[a,e]azulene-9-carboxylate | 5.98 mmol, 3.25 g | C1(CCCCC1)C=1C2=C(N3CCOC4=C(C13)C=CC=C4N(CCC)CCN4CCCCC4)C=C(C=C2)C(=O)OC | C34H45N3O3
reactant | sodium hydroxide | 4N, 4.5 ml | [OH-].[Na+]
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | tetrahydrofuran | 16 ml | O1CCCC1 | C4H8O
solvent | methanol | 8 ml | CO | CH4O
product | 12-cyclohexyl-4-{N-[2-(piperidin-1-yl)ethyl]-N-propylamino}-6,7-dihydro-5-oxa-7a-azadibenzo[a,e]azulene-9-carboxylic acid dihydrochloride | 3.41 g, yield 95% | Cl.Cl.C1(CCCCC1)C=1C2=C(N3CCOC4=C(C13)C=CC=C4N(CCC)CCN4CCCCC4)C=C(C=C2)C(=O)O | InChI=1S/C33H43N3O3.2ClH/c1-2-16-35(20-19-34-17-7-4-8-18-34)28-13-9-12-27-31-30(24-10-5-3-6-11-24)26-15-14-25(33(37)38)23-29(26)36(31)21-22-39-32(27)28;;/h9,12-15,23-24H,2-8,10-11,16-22H2,1H3,(H,37,38);2*1H
